*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-471_freq port1 port2 PARAMS: Cpar=0.1pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.083
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.021
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1654.59426
.ends PFL1609-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-471
* Inductance = 470nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-471_imp port1 port2 PARAMS: Cpar=0.082pF Ind=0.47uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.083
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.021
+ K5=8.1E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1654.59426
.ends PFL1609-471_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-561_freq port1 port2 PARAMS: Cpar=0.12pF Ind=0.56uH
X1 port1 port2 Model1A PARAMS:
+ R1=74
+ R2=0.11
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.02
+ K5=7.69E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1862.57236
.ends PFL1609-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-561_imp port1 port2 PARAMS: Cpar=0.103pF Ind=0.56uH
X1 port1 port2 Model1D PARAMS:
+ R1=74
+ R2=0.11
+ C= {Cpar}
+ K1=0.000001
+ K2=0.075
+ K3= {Ind}
+ K4=0.02
+ K5=7.69E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1862.57236
.ends PFL1609-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-681_freq port1 port2 PARAMS: Cpar=0.12pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=22
+ R2=0.145
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.025
+ K5=8.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2425.60602
.ends PFL1609-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-681_imp port1 port2 PARAMS: Cpar=0.103pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=22
+ R2=0.145
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.025
+ K5=8.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2425.60602
.ends PFL1609-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-102_freq port1 port2 PARAMS: Cpar=0.09pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=60
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.15
+ K3= {Ind}
+ K4=0.02
+ K5=6.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3448.11218
.ends PFL1609-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-102_imp port1 port2 PARAMS: Cpar=0.084pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=60
+ R2=0.2
+ C= {Cpar}
+ K1=0.000001
+ K2=0.15
+ K3= {Ind}
+ K4=0.02
+ K5=6.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3448.11218
.ends PFL1609-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-222_freq port1 port2 PARAMS: Cpar=0.47pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.41
+ C= {Cpar}
+ K1=0.000001
+ K2=0.41
+ K3= {Ind}
+ K4=0.05
+ K5=9.6E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5032.76699
.ends PFL1609-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.75GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-222_imp port1 port2 PARAMS: Cpar=0.441pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.41
+ C= {Cpar}
+ K1=0.000001
+ K2=0.41
+ K3= {Ind}
+ K4=0.05
+ K5=9.6E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5032.76699
.ends PFL1609-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-472_freq port1 port2 PARAMS: Cpar=1.06pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=19
+ R2=0.62
+ C= {Cpar}
+ K1=0.0014
+ K2=0.88
+ K3= {Ind}
+ K4=0.1
+ K5=1.27E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7128.34546
.ends PFL1609-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-472_imp port1 port2 PARAMS: Cpar=1.01pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=19
+ R2=0.62
+ C= {Cpar}
+ K1=0.0014
+ K2=0.88
+ K3= {Ind}
+ K4=0.1
+ K5=1.27E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7128.34546
.ends PFL1609-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.25GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-682_freq port1 port2 PARAMS: Cpar=1.3pF Ind=8uH
X1 port1 port2 Model1A PARAMS:
+ R1=22
+ R2=1
+ C= {Cpar}
+ K1=0.00053
+ K2=1.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.00000029
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10194.699
.ends PFL1609-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.25GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-682_imp port1 port2 PARAMS: Cpar=1.235pF Ind=8uH
X1 port1 port2 Model1D PARAMS:
+ R1=22
+ R2=1
+ C= {Cpar}
+ K1=0.00053
+ K2=1.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.00000029
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10194.699
.ends PFL1609-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1609-103_freq port1 port2 PARAMS: Cpar=1.7pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=29
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=2.1
+ K3= {Ind}
+ K4=0.00077
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12260.4287
.ends PFL1609-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1609-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-0.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1609-103_imp port1 port2 PARAMS: Cpar=1.7pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=29
+ R2=1.2
+ C= {Cpar}
+ K1=0.000001
+ K2=2.1
+ K3= {Ind}
+ K4=0.00077
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12260.4287
.ends PFL1609-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
